US05919779
To a solution of 4-(2-chloropyridin-3-yl)-5-(2-ethylaminopyridin-3-yl)-1, 2, 3-thiadiazole (0.700 g) in tetrahydrofuran (5 mL) was added potassium bistrimethylsilylamide (0.5M in toluene, 3.5 mL). After 10 minutes the mixture was diluted with ethyl acetate, washed with water, dried, filtered and evaporated. Chromatography of the residue over silica gel gave 8-ethyl-(1, 2, 3)thiadiazolo[4',5':6,5]dipyrido[2,3-b:3',2'-f]azepine (0.453 g). mp 194-196° C.

reactant | 4-(2-chloropyridin-3-yl)-5-(2-ethylaminopyridin-3-yl)-1, 2, 3-thiadiazole | 0.700 g | ClC1=NC=CC=C1C=1N=NSC1C=1C(=NC=CC1)NCC | C14H12ClN5S
reactant | potassium bistrimethylsilylamide | 0.5M, 3.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-ethyl-(1, 2, 3)thiadiazolo[4',5':6,5]dipyrido[2,3-b:3',2'-f]azepine | 0.453 g | CCN1C2=C(C=CC=N2)C3=C(C4=C1N=CC=C4)SN=N3 | C14H11N5S
